US08227468B2
4-Fluoro-N-[(1S,2S)-2-hydroxy-6-iodo-indan-1-yl]benzamide
To a solution of tert-butyl N-[(1S,2S)-2-hydroxy-6-iodo-indan-1-yl]carbamate (39.6 mmol, 14.9 g) in 1,4-dioxane (200 mL), add a solution of 4 M hydrogen chloride in dioxane (100 mL) at room temperature and stir for 2 hr. Concentrate the resulting suspension in vacuo and dry in a vacuum oven for 48 hr. Dissolve the residue in THF (25 mL) and cool in an ice bath for 30 min. Add 5 M aqueous sodium hydroxide (17.4 mL, 87.2 mmol) and 4-fluorobenzoyl chloride (3.78 mL, 40.4 mmol) dropwise. Warm the solution to room temperature and stir for one hour. Concentrate the black solution in vacuo and dilute with water (50 mL). Collect the solid by filtration and dry at 40° C. in a vacuum oven overnight to obtain the title compound (14.4 g, 91%). LC-ES/MS m/z 398 [M+H]+.

reactant | tert-butyl N-[(1S,2S)-2-hydroxy-6-iodo-indan-1-yl]carbamate | 39.6 mmol, 14.9 g | O[C@@H]1[C@H](C2=CC(=CC=C2C1)I)NC(OC(C)(C)C)=O | C14H18INO3
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | sodium hydroxide | 87.2 mmol, 5 M, 17.4 mL | [OH-].[Na+]
reactant | 4-fluorobenzoyl chloride | 40.4 mmol, 3.78 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-Fluoro-N-[(1S,2S)-2-hydroxy-6-iodo-indan-1-yl]benzamide | 14.4 g, 91% | FC1=CC=C(C(=O)N[C@@H]2[C@H](CC3=CC=C(C=C23)I)O)C=C1 | C16H13FINO2
